US09315462B2
Step 8: Synthesis of 2-chloro-6-methoxy-3-(trifluoromethyl)quinoline
A solution of 6-methoxy-3-(trifluoromethyl)quinolin-2(1H)-one (4.60 g, 18.9 mmol) in POCl3 (30 mL) was refluxed for 2.5 hours. The solvent was removed under reduced pressure and the residue was neutralized by 2M NaOH to pH 7. An EtOAc workup was followed by removal of volatiles under reduced pressure. The residue was purified by column chromatography on silica gel (PE/EtOAc=15/1) to give the desired product (4.60 g, yield 94%).

reactant | 6-methoxy-3-(trifluoromethyl)quinolin-2(1H)-one | 18.9 mmol, 4.60 g | COC=1C=C2C=C(C(NC2=CC1)=O)C(F)(F)F | C11H8F3NO2
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-methoxy-3-(trifluoromethyl)quinoline | 4.60 g, yield 94% | ClC1=NC2=CC=C(C=C2C=C1C(F)(F)F)OC | C11H7ClF3NO
